* File: AND2D1.cdl.pex
* Created: Wed Jan 15 17:07:40 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_AND2D1%net3 1 4 5 8 20 22 24 25 32 33 36 38 40 44 49
c46 49 0 0.140755f
c47 44 0 0.213801f
c48 40 0 0.23958f
c49 38 0 0.0561368f
c50 36 0 0.0306406f
c51 33 0 0.178652f
c52 32 0 0.123762f
c53 25 0 0.391838f
c54 24 0 0.025832f
c55 22 0 0.0260364f
c56 20 0 0.189855f
r57 38 40 0.238548
r58 32 49 0.120556
r59 32 34 0.488662
r60 32 33 0.488662
r61 24 38 1.41667
r62 22 36 0.833333
r63 20 24 0.279364
r64 20 34 3.25
r65 17 22 0.279364
r66 17 33 3.08333
r67 8 49 0.058186
r68 4 25 0.125
r69 4 36 0.407372
r70 4 25 2.375
r71 1 8 0.0175791
r72 1 44 0.00515647
r73 1 44 0.0495833
r74 1 5 0.0102083
.ends

.subckt PM_AND2D1%IN1 3 6 9 16 17 19 23
c24 23 0 0.0353947f
c25 19 0 0.113093f
c26 17 0 0.493752f
c27 16 0 0.05995f
c28 9 0 0.511603f
r29 19 23 0.282372
r30 17 22 0.137684
r31 16 23 0.916667
r32 13 16 0.279364
r33 12 22 1.10294
r34 9 13 2.08333
r35 9 12 2.91667
r36 6 19 0.625
r37 3 22 0.157448
r38 3 17 2.375
.ends

.subckt PM_AND2D1%IN2 3 6 9 10 12 14 19
c29 19 0 0.0199984f
c30 14 0 0.055697f
c31 12 0 0.127809f
c32 10 0 0.499459f
c33 9 0 0.373459f
r34 16 20 0.049177
r35 14 17 0.279364
r36 14 19 0.666667
r37 12 19 0.282372
r38 10 20 0.831548
r39 9 17 1.83333
r40 9 16 5.83333
r41 6 12 0.625
r42 3 10 2.5
.ends

.subckt PM_AND2D1%VSS 1 2 11
c14 11 0 1.07926f
c15 2 0 0.89704f
c16 1 0 1.03623f
r17 2 11 0.0886667
r18 1 2 0.231
.ends

.subckt PM_AND2D1%VDD 1 4 9 11
c18 11 0 1.13567f
c19 9 0 0.803627f
c20 4 0 0.477224f
c21 1 0 0.655491f
r22 9 11 0.163333
r23 4 9 0.205333
r24 1 4 0.123667
.ends

.subckt PM_AND2D1%OUT 1 4 8 9
c16 9 0 0.0952946f
c17 8 0 0.626494f
c18 1 0 0.260109f
r19 8 9 0.042
r20 4 8 0.05425
r21 1 9 0.0162914
r22 1 14 0.0306278
r23 1 14 0.0427778
.ends

