* File: AND2D8.cdl.pex
* Created: Wed Jan 15 18:48:53 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_AND2D8%net11 1 10 21 24 25 26 43 44 65 66 71 72 104 106 108 110 114
+ 115 119 123 128 130 131 132 161 163 166 167 168
c88 168 0 0.438989f
c89 167 0 0.208257f
c90 166 0 0.149251f
c91 163 0 0.0383156f
c92 161 0 0.0544843f
c93 132 0 0.031487f
c94 131 0 0.0121798f
c95 130 0 0.020723f
c96 129 0 0.0153418f
c97 128 0 0.0797443f
c98 123 0 0.015429f
c99 119 0 0.0116045f
c100 115 0 0.015384f
c101 114 0 0.05995f
c102 110 0 0.0601742f
c103 108 0 0.0745783f
c104 106 0 0.120329f
c105 104 0 0.0846682f
c106 72 0 0.638732f
c107 71 0 0.797969f
c108 66 0 0.197942f
c109 65 0 0.232811f
c110 44 0 0.422825f
c111 43 0 0.522805f
c112 26 0 0.303675f
c113 25 0 0.364924f
c114 24 0 0.88715f
c115 21 0 0.26111f
c116 10 0 0.449779f
c117 1 0 0.340566f
r118 165 166 0.56
r119 163 171 0.0392974
r120 163 168 0.14
r121 161 165 0.039111
r122 161 167 0.14
r123 151 167 0.0684127
r124 133 168 0.0684127
r125 128 171 0.0333333
r126 128 166 0.0680885
r127 123 132 0.282372
r128 119 131 0.282372
r129 115 130 0.282372
r130 114 132 0.916667
r131 112 129 0.055023
r132 112 131 0.916667
r133 110 130 0.916667
r134 108 114 0.279364
r135 107 128 0.488662
r136 107 108 0.666667
r137 106 128 0.488662
r138 105 129 0.211723
r139 105 106 2.66667
r140 104 129 0.211723
r141 103 110 0.279364
r142 103 104 2.33333
r143 66 72 10.5
r144 66 119 5
r145 65 71 10.5
r146 65 115 5
r147 44 133 0.0661111
r148 43 151 0.0661111
r149 26 44 0.233333
r150 25 43 0.233333
r151 21 24 10.5
r152 21 123 5
r153 10 26 0.268333
r154 1 10 0.28
.ends

.subckt PM_AND2D8%IN1 3 8 9 14 15 21 23 27 30 34
c30 34 0 0.0725606f
c31 30 0 0.0925055f
c32 27 0 0.0761593f
c33 23 0 0.220286f
c34 21 0 0.550609f
c35 15 0 0.842281f
c36 14 0 0.797969f
c37 9 0 0.197942f
c38 8 0 0.232811f
c39 3 0 0.566255f
r40 30 38 0.831548
r41 25 27 0.286844
r42 23 34 0.831548
r43 23 24 0.049177
r44 22 38 0.049177
r45 22 23 2.33333
r46 21 25 1.25
r47 21 24 3.41667
r48 9 15 10.5
r49 9 34 5
r50 8 14 10.5
r51 8 30 5
r52 3 27 5.25
.ends

.subckt PM_AND2D8%IN2 3 8 9 14 15 21 22 26 28 33
c33 33 0 0.0410726f
c34 28 0 0.134589f
c35 26 0 0.12578f
c36 22 0 0.848613f
c37 21 0 0.064837f
c38 15 0 0.745913f
c39 14 0 0.744929f
c40 9 0 0.253192f
c41 8 0 0.232811f
r42 33 38 0.641357
r43 27 28 2.16667
r44 25 38 0.0536562
r45 25 26 2.16667
r46 22 28 0.286844
r47 21 29 0.0135341
r48 21 26 0.267081
r49 21 27 0.267081
r50 9 15 10.5
r51 9 29 5.4375
r52 8 14 10.5
r53 8 33 5
r54 3 22 5.25
.ends

.subckt PM_AND2D8%VDD 1 10 19 28 53 66
c34 66 0 1.47005f
c35 53 0 1.7531f
c36 28 0 2.25544f
c37 19 0 1.66075f
c38 10 0 1.57231f
c39 1 0 1.51807f
r40 65 66 0.188207
r41 53 65 0.188207
r42 19 28 0.14
r43 19 66 0.188253
r44 10 53 0.452667
r45 1 10 0.168
.ends

.subckt PM_AND2D8%net12 1 10 19 28 63 66 68 69 79 80
c52 80 0 0.0171842f
c53 79 0 0.15732f
c54 69 0 0.0509079f
c55 68 0 0.0323636f
c56 66 0 0.0827299f
c57 63 0 0.078369f
c58 28 0 0.504881f
c59 19 0 0.168591f
c60 10 0 0.354135f
c61 1 0 0.224057f
r62 69 80 0.103413
r63 68 80 0.0933333
r64 66 68 0.039111
r65 65 66 0.14
r66 63 65 0.039111
r67 63 79 0.105
r68 53 79 0.0684127
r69 19 28 0.233333
r70 19 69 0.0311111
r71 10 53 0.0661111
r72 1 10 0.233333
.ends

.subckt PM_AND2D8%VSS 1 2 19 20 37 38 55 56 105 107 108 109 120 122 123 134 145
+ 155
c87 156 0 0.0463594f
c88 155 0 0.0130902f
c89 145 0 0.0238047f
c90 134 0 0.202484f
c91 123 0 0.0218363f
c92 122 0 0.0131706f
c93 120 0 1.21912f
c94 109 0 0.31959f
c95 108 0 2.42409f
c96 107 0 0.28284f
c97 56 0 0.596103f
c98 55 0 2.56839f
c99 38 0 0.253355f
c100 37 0 0.908697f
c101 20 0 0.585639f
c102 19 0 1.77302f
c103 2 0 0.21584f
c104 1 0 0.924974f
r105 135 156 0.00677755
r106 134 145 0.0534439
r107 133 156 0.0427352
r108 133 134 0.583333
r109 123 155 0.0684127
r110 122 155 0.105
r111 119 120 0.157873
r112 108 156 0.00677755
r113 107 122 0.039111
r114 106 109 0.0679156
r115 106 107 0.723333
r116 105 108 0.466667
r117 105 120 0.15792
r118 38 56 0.233333
r119 38 145 0.128333
r120 37 55 0.14
r121 37 135 0.077
r122 19 119 0.157873
r123 2 20 0.233333
r124 2 123 0.0661111
r125 1 19 0.14
r126 1 109 0.0816667
.ends

.subckt PM_AND2D8%OUT 1 10 19 28 53 74 76 81 82
c32 82 0 0.239166f
c33 81 0 0.219462f
c34 76 0 0.0786376f
c35 74 0 0.0756562f
c36 53 0 0.448642f
c37 28 0 0.354135f
c38 19 0 0.224695f
c39 10 0 0.407515f
c40 1 0 0.255502f
r41 76 79 0.039111
r42 76 82 0.0816667
r43 74 78 0.039111
r44 74 81 0.0816667
r45 64 82 0.0684127
r46 54 81 0.0684127
r47 53 79 0.245
r48 53 78 0.291667
r49 28 54 0.0661111
r50 19 28 0.233333
r51 10 64 0.0661111
r52 1 10 0.233333
.ends

