* File: BUFD16.cdl.pex
* Created: Fri Dec  6 23:07:20 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD16%net1 1 14 15 20 21 26 27 28 39 42 45 64 65 66 68 70 72 74 75
+ 77 78 79 80 82 83 85 86 88 89 90 91 92 93 94 95 97 98 100 101 103 104 105 106
+ 107 108 109 111 113 116 118 119 120 126 132 133 134 137 139 140 142
c130 143 0 0.011673f
c131 142 0 0.0404788f
c132 140 0 0.0479144f
c133 139 0 0.0767125f
c134 137 0 0.0868623f
c135 134 0 0.0575636f
c136 133 0 0.0357812f
c137 132 0 0.0543615f
c138 126 0 0.385931f
c139 120 0 0.337212f
c140 119 0 0.0186678f
c141 118 0 6.81212e-19
c142 116 0 0.0622242f
c143 113 0 0.614573f
c144 111 0 0.433409f
c145 109 0 0.555118f
c146 108 0 0.0147874f
c147 107 0 0.0450906f
c148 106 0 0.0116275f
c149 105 0 0.0345268f
c150 104 0 0.0133692f
c151 103 0 0.0402395f
c152 101 0 0.0148139f
c153 100 0 0.52235f
c154 98 0 0.011654f
c155 97 0 0.395983f
c156 95 0 0.0133957f
c157 94 0 0.465739f
c158 93 0 0.0148139f
c159 92 0 0.0483572f
c160 91 0 0.011654f
c161 90 0 0.037028f
c162 89 0 0.0133957f
c163 88 0 0.0431546f
c164 86 0 0.0162737f
c165 85 0 0.52235f
c166 83 0 0.0116306f
c167 82 0 0.395983f
c168 80 0 0.0139898f
c169 79 0 0.465739f
c170 78 0 0.0262137f
c171 77 0 0.0287572f
c172 75 0 0.022021f
c173 74 0 0.0117953f
c174 73 0 0.0256638f
c175 72 0 0.0885342f
c176 70 0 0.145871f
c177 68 0 0.0939561f
c178 66 0 0.0199811f
c179 65 0 0.073234f
c180 64 0 0.0278578f
r181 141 143 0.00770322
r182 140 141 0.116667
r183 138 143 0.0296412
r184 138 139 0.28
r185 137 143 0.0296412
r186 136 137 0.315
r187 134 139 0.039111
r188 134 142 0.128333
r189 132 136 0.039111
r190 132 133 0.128333
r191 126 142 0.0532251
r192 120 133 0.0517064
r193 116 140 0.0684127
r194 107 113 0.266186
r195 107 108 1.16667
r196 105 111 0.266186
r197 105 106 1.16667
r198 103 109 0.266186
r199 103 104 1.16667
r200 100 108 0.266186
r201 97 106 0.266186
r202 94 104 0.266186
r203 92 101 0.266186
r204 92 93 1.25
r205 90 98 0.266186
r206 90 91 1.25
r207 88 95 0.266186
r208 88 89 1.25
r209 85 93 0.266186
r210 82 91 0.266186
r211 79 89 0.266186
r212 77 86 0.266186
r213 77 78 0.75
r214 76 118 0.055023
r215 75 83 0.266186
r216 75 76 0.75
r217 73 80 0.266186
r218 73 74 0.75
r219 72 78 0.279364
r220 71 119 0.211723
r221 71 72 1.5
r222 70 119 0.211723
r223 69 118 0.211723
r224 69 70 2.83333
r225 68 118 0.211723
r226 67 74 0.279364
r227 67 68 2.33333
r228 65 119 0.055023
r229 65 66 1.41667
r230 64 66 0.279364
r231 63 116 0.488662
r232 63 64 1
r233 45 113 5
r234 42 100 5
r235 42 101 5
r236 39 85 5
r237 39 86 5
r238 28 126 0.0661111
r239 27 111 5
r240 26 109 5
r241 21 97 5
r242 21 98 5
r243 20 94 5
r244 20 95 5
r245 15 82 5
r246 15 83 5
r247 14 79 5
r248 14 80 5
r249 1 120 0.0661111
.ends

.subckt PM_BUFD16%IN 5 6 9 13 15 19 20 21 23 24 25 27 29 31
c44 31 0 0.0486278f
c45 29 0 0.577159f
c46 27 0 0.43686f
c47 25 0 0.511f
c48 24 0 0.0600617f
c49 23 0 0.0320239f
c50 21 0 0.0176264f
c51 20 0 0.0597418f
c52 19 0 0.0243694f
c53 15 0 0.192326f
c54 13 0 0.45498f
r55 23 29 0.266186
r56 23 24 0.833333
r57 22 31 0.055023
r58 21 27 0.266186
r59 21 22 0.833333
r60 19 25 0.266186
r61 19 20 0.833333
r62 17 24 0.279364
r63 16 31 0.211723
r64 15 31 0.211723
r65 14 20 0.279364
r66 14 15 2.33333
r67 13 17 2.5
r68 13 16 2.33333
r69 9 29 5
r70 6 27 5
r71 5 25 5
.ends

.subckt PM_BUFD16%VDD 1 10 19 28 53
c47 28 0 2.67642f
c48 19 0 1.27989f
c49 10 0 2.41428f
c50 1 0 1.43265f
r51 19 28 0.172667
r52 10 19 0.175
r53 1 10 0.296333
r54 1 53 0.105
.ends

.subckt PM_BUFD16%VSS 1 2 19 20 37 38 55 56 105 106 107 108 115 116 123 139 140
+ 141 146 147 148 149 156 163 165 166 167
c121 167 0 0.0571929f
c122 166 0 0.0328387f
c123 165 0 0.033145f
c124 164 0 0.0463594f
c125 163 0 0.0275476f
c126 156 0 0.0328387f
c127 149 0 0.0329807f
c128 148 0 0.344432f
c129 147 0 0.0329807f
c130 146 0 0.0599195f
c131 141 0 0.0340822f
c132 140 0 0.344432f
c133 139 0 0.0158693f
c134 123 0 0.180178f
c135 116 0 0.0328713f
c136 115 0 0.0134526f
c137 108 0 0.745123f
c138 107 0 0.182442f
c139 106 0 0.475163f
c140 56 0 0.402459f
c141 55 0 2.36315f
c142 37 0 1.59283f
c143 19 0 1.29542f
c144 2 0 0.38801f
c145 1 0 1.25415f
r146 166 167 0.256667
r147 156 167 0.0532251
r148 148 166 0.0532251
r149 146 149 0.0517064
r150 146 147 0.268333
r151 141 165 0.0532251
r152 140 147 0.0517064
r153 139 165 0.186667
r154 124 164 0.00677755
r155 123 139 0.039111
r156 122 164 0.0427352
r157 122 123 0.665
r158 116 163 0.0532251
r159 115 163 0.128333
r160 108 164 0.00677755
r161 107 115 0.039111
r162 106 107 0.665
r163 105 106 0.0446813
r164 105 109 0.0232343
r165 56 156 0.0661111
r166 38 148 0.0661111
r167 38 149 0.0661111
r168 37 55 0.172667
r169 20 140 0.0661111
r170 20 141 0.0661111
r171 19 37 0.175
r172 19 124 0.098
r173 2 116 0.0661111
r174 1 108 0.184333
r175 1 109 0.0863333
.ends

.subckt PM_BUFD16%OUT 1 10 19 28 37 46 79 80 86 92 93 94 95 96 97 102 103 108
+ 109 110 111 112 113 118 119 124 126
c80 131 0 0.0642423f
c81 127 0 0.0736893f
c82 126 0 0.0980988f
c83 124 0 0.0958494f
c84 119 0 0.0328387f
c85 118 0 0.344432f
c86 113 0 0.0299784f
c87 112 0 0.299315f
c88 111 0 0.0328387f
c89 110 0 0.0563009f
c90 109 0 0.0299784f
c91 108 0 0.0489893f
c92 103 0 0.0329807f
c93 102 0 0.344432f
c94 97 0 0.0301204f
c95 96 0 0.299315f
c96 95 0 0.0329807f
c97 94 0 0.0586675f
c98 93 0 0.0301204f
c99 92 0 0.0514857f
c100 86 0 0.391914f
c101 80 0 0.338078f
c102 79 0 0.549159f
r103 126 129 0.039111
r104 126 127 0.151667
r105 124 128 0.039111
r106 124 131 0.151667
r107 118 127 0.0517064
r108 112 131 0.0532251
r109 110 119 0.0517064
r110 110 111 0.256667
r111 108 113 0.0517064
r112 108 109 0.256667
r113 102 111 0.0517064
r114 96 109 0.0517064
r115 94 103 0.0517064
r116 94 95 0.268333
r117 92 97 0.0517064
r118 92 93 0.268333
r119 86 95 0.0517064
r120 80 93 0.0517064
r121 79 129 0.373333
r122 79 128 0.315
r123 46 118 0.0661111
r124 46 119 0.0661111
r125 37 102 0.0661111
r126 37 103 0.0661111
r127 28 86 0.0661111
r128 19 112 0.0661111
r129 19 113 0.0661111
r130 10 96 0.0661111
r131 10 97 0.0661111
r132 1 80 0.0661111
.ends

