* File: NAND2D1.cdl.pex
* Created: Sat Aug 17 14:14:15 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D1%IN1 3 6 9 11 12 14
c18 14 0 0.199896f
c19 12 0 0.505053f
c20 11 0 0.502656f
r21 10 12 0.831548
r22 10 11 4.83333
r23 9 14 0.394048
r24 9 11 0.538462
r25 6 14 0.625
r26 3 12 2.5
.ends

.subckt PM_NAND2D1%IN2 3 6 9 10 12 15
c19 15 0 0.840338f
c20 12 0 0.128106f
c21 10 0 0.537586f
c22 9 0 0.108963f
r23 14 15 7.66667
r24 10 14 0.831548
r25 9 15 0.615385
r26 9 12 0.331548
r27 6 12 0.625
r28 3 10 2.5
.ends

.subckt PM_NAND2D1%VSS 1 6
c5 1 0 1.52072f
r6 1 6 0.056
.ends

.subckt PM_NAND2D1%VDD 1 4 9
c10 4 0 1.53915f
r11 1 4 0.14
r12 1 9 0.028
.ends

.subckt PM_NAND2D1%OUT 1 2 5 14 15 19 22 31 35
c24 35 0 0.0467879f
c25 32 0 0.00699271f
c26 31 0 0.0692461f
c27 22 0 0.0481473f
c28 19 0 0.0467879f
c29 15 0 0.0920885f
c30 14 0 0.0136964f
c31 5 0 0.0692461f
c32 1 0 0.0920885f
r33 28 35 0.198333
r34 23 32 0.0110506
r35 21 32 0.0314184
r36 21 22 0.198333
r37 19 31 0.198333
r38 15 32 0.0110506
r39 14 22 0.00770322
r40 14 19 0.0296412
r41 14 28 0.0296412
r42 5 35 0.0723016
r43 2 31 0.0723016
r44 1 23 0.0583333
r45 1 15 0.0583333
.ends

