* File: NAND2D2.cdl.pex
* Created: Sat Aug 17 14:15:50 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D2%IN1 3 6 9 11 12 13 14 16
c22 16 0 0.1855f
c23 14 0 0.864317f
c24 13 0 0.0600617f
c25 12 0 0.0516821f
c26 11 0 0.487769f
r27 12 13 1.33333
r28 11 13 0.279364
r29 10 14 0.831548
r30 10 11 4.83333
r31 9 16 0.1875
r32 9 12 0.0948718
r33 6 16 1.25
r34 3 14 5
.ends

.subckt PM_NAND2D2%IN2 3 6 9 10 12 14 18
c22 18 0 0.825452f
c23 15 0 0.0277301f
c24 14 0 0.126693f
c25 12 0 0.218064f
c26 10 0 0.88525f
r27 17 18 7.66667
r28 14 18 0.279364
r29 12 15 0.266186
r30 10 17 0.831548
r31 9 14 0.5
r32 9 15 0.833333
r33 6 12 1.25
r34 3 10 5
.ends

.subckt PM_NAND2D2%VSS 1 8
c5 1 0 2.21616f
r6 1 8 0.0653333
.ends

.subckt PM_NAND2D2%VDD 1 4 9
c11 4 0 2.25473f
r12 1 4 0.233333
r13 1 9 0.056
.ends

.subckt PM_NAND2D2%OUT 1 2 5 16 17 23 26 29 38 43
c26 43 0 0.077425f
c27 41 0 0.00699271f
c28 40 0 0.0319072f
c29 38 0 0.114199f
c30 29 0 0.0601435f
c31 26 0 0.077425f
c32 23 0 0.0822913f
c33 17 0 0.179283f
c34 16 0 0.0136964f
c35 1 0 0.179283f
r36 38 43 0.0532251
r37 37 43 0.315
r38 30 41 0.0110506
r39 28 41 0.0314184
r40 28 29 0.198333
r41 26 40 0.315
r42 23 40 0.0532251
r43 17 41 0.0110506
r44 16 29 0.00770322
r45 16 26 0.0296412
r46 16 37 0.0296412
r47 5 38 0.0194444
r48 2 23 0.0661111
r49 1 30 0.0583333
r50 1 17 0.0583333
.ends

